US07709500B2
7-(Chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid (1 g) was added to ethanolamine (3 ml) in tetrahydrofuran (3 ml) and the mixture was stirred for 18 h. Hydrochloric acid was added to acidify the mixture, which was filtered to yield 1,2-dihydro-7-[[(2-hydroxyethyl)amino]sulfonyl]-1-oxo-4 isoquinolinecarboxylic acid as a white solid.

reactant | 7-(Chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid | 1 g | ClS(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O | C10H6ClNO5S
reactant | ethanolamine | 3 ml | C(O)CN | C2H7NO
reactant | Hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1,2-dihydro-7-[[(2-hydroxyethyl)amino]sulfonyl]-1-oxo-4 isoquinolinecarboxylic acid | OCCNS(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O | C12H12N2O6S
